US07456177B2
Preparation of 6-Fluoro-5-aza-tricyclo[7.2.1.02,7]dodeca-2,4,6,10-tetraen-8-one
Cyclopent-3-enyl-(2-fluoro-4-iodo-pyridin-3-yl)-methanone (110 mg, 0.35 mmol) as prepared above, was combined with tetrabutylammonium bromide (112 mg, 0.35 mmol), potassium acetate (102 mg, 1.04 mmol), triphenylphosphine (2 mg, 0.009 mmol) and DMF (4 ml). The reaction mixture was deoxygenated with nitrogen and then palladium acetate (2 mg, 0.008 mmol) was introduced. The reaction mixture was heated in a 100° C. oil bath for 20 min. A black precipitate was observed after 7 min. The reaction mixture was cooled to room temperature and was then added to a mixture of 1:1:1:1 ethyl acetate, hexane, brine and water. The organic layer was separated and washed with brine and then dried and evaporated. The residue (60 mg) was used directly in the next step. 1H NMR (CDCl3, 400 MHz) δ 8.15 (d, 1H, J=5 Hz), 7.03 (d, 1H, J=5 Hz), 6.65 (m, 1H), 6.19(m, 1H), 3.69 (br s, 1H), 3.51 (m, 1H), 2.68 (m, 1H), 2.63 (d, 1H, J=11 Hz); APCl MS m/z 190 (M+1)+; HRMS (m/z): (M+H)+ calc'd. for C11H8FNO2: 190.0668; found, 190.0654.

reactant | Cyclopent-3-enyl-(2-fluoro-4-iodo-pyridin-3-yl)-methanone | 0.35 mmol, 110 mg | C1(CC=CC1)C(=O)C=1C(=NC=CC1I)F | C11H9FINO
reactant | potassium acetate | 1.04 mmol, 102 mg | C(C)(=O)[O-].[K+]
reactant | triphenylphosphine | 0.009 mmol, 2 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium bromide | 0.35 mmol, 112 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | brine | [Cl-].[Na+].O
catalyst | palladium acetate | 0.008 mmol, 2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Fluoro-5-aza-tricyclo[7.2.1.02,7]dodeca-2,4,6,10-tetraen-8-one | FC=1N=CC=C2C3C=CC(C(C12)=O)C3 | C11H8FNO
